US04859691
Similarly condensation of 3-bromomethyl-1,2-benzisoxazole with 1,2,4-triazole affords 3-[(1H-1,2,4-triazol-1-yl)methyl]-1,2-benzisoxazole, m.p. 102°-104° C.

reactant | 3-bromomethyl-1,2-benzisoxazole | BrCC1=NOC2=C1C=CC=C2 | C8H6BrNO
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 3-[(1H-1,2,4-triazol-1-yl)methyl]-1,2-benzisoxazole | N1(N=CN=C1)CC1=NOC2=C1C=CC=C2 | C10H8N4O
